US07943609B2
A solution of (1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-tetrahydro-2H-pyran-4-ylethanol (3.29 g, 12.7 mmol) in 60 mL of CH2Cl2 was cooled to 0° C. under N2. Triethylamine (3.58 mL, 25.7 mmol) was then added followed by methanesulfonyl chloride (2.57 g, 17.0 mmol) and DMAP (61 mg, 0.50 mmol) and the reaction mixture was stirred and allowed to warm to ambient temperature overnight. The reaction mixture was treated with saturated aqueous NaHCO3 solution and the layers were separated. The organic portion was washed successively with aqueous 3.5% NaH2PO4 solution (2×), H2O and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to give 4.29 g of (1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-tetrahydro-2H-pyran-4-ylethyl methanesulfonate as a colorless oil.

reactant | (1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-tetrahydro-2H-pyran-4-ylethanol | 12.7 mmol, 3.29 g | [Si](C)(C)(C(C)(C)C)OC[C@H](O)C1CCOCC1 | C13H28O3Si
reactant | Triethylamine | 25.7 mmol, 3.58 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 17.0 mmol, 2.57 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.50 mmol, 61 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-tetrahydro-2H-pyran-4-ylethyl methanesulfonate | 4.29 g | CS(=O)(=O)O[C@@H](CO[Si](C)(C)C(C)(C)C)C1CCOCC1 | C14H30O5SSi
